US20010027196A1
To a stirred solution of 1.00 g (14.5 mmol) oxazole in 25 ml dry THF under argon at −78° C. was added 9.14 ml (14.6 mmol) n-butyllithium solution (1.6M in hexane) and stirring continued for 30 minutes at −78° C. 3.91 ml (14.5 mmol) tributyltin chloride was then added dropwise and stirring continued for 15 minutes at −78° C. and for 1 hour at room temperature. The reaction mixture was then concentrated in vacuo and the residue resuspended in 50 ml hexane. The insoluble lithium salts were removed by filtration and the filtrate was concentrated in vacuo to afford 4.90 g (95%) 2-tributylstannanyl-oxazole as a light yellow liquid which was used in the next step without further purification. 1H NMR 6 (CDCl3, 250 MHz): 7.84 (1H, s), 7.18 (1H, s), 1.67-1.53 (6H, m), 1.42-1.29 (6H, m), 1.20 (6H, t, J=8 Hz), 0.89 (9H, t, J=7 Hz).

reactant | oxazole | 14.5 mmol, 1.00 g | O1C=NC=C1 | C3H3NO
reactant | n-butyllithium | 14.6 mmol, 1.6M, 9.14 ml | C(CCC)[Li]
reactant | tributyltin chloride | 14.5 mmol, 3.91 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-tributylstannanyl-oxazole | 4.90 g, 95% | C(CCC)[Sn](C=1OC=CN1)(CCCC)CCCC | InChI=1S/3C4H9.C3H2NO.Sn/c3*1-3-4-2;1-2-5-3-4-1;/h3*1,3-4H2,2H3;1-2H;
